US07071184B2
c. Furan-2-carboxylic acid [(S)-2-cyclohexyl-1-((3S,4S,7R)-3-hydroxy-7-methyl-1-propyl-azepan-4-ylcarbamoyl)-ethyl]-amide
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide (0.10 g, 0.53 mmol) was added to a solution of furan-2-carboxylic acid (0.059 g, 0.53 mmol), (S)-2-Amino-3-cyclohexyl-N-((3S,4S,7R)-3-hydroxy-7-methyl-1-propyl-azepan-4-yl)-propionamide (0.15 g, 0.36 mmol), 4-methylmorpholine (0.14 g, 0.16 ml, 1.44 mmol), hydroxybenztriazole (0.071 g, 0.53 mmol) in DMF (2.0 ml) and was stirred at RT overnight. The reaction mixture was then warmed to RT and was stirred overnight. The reaction mixture was diluted with EtOAc (30 ml), washed with H2O, brine, dried with magnesium sulfate, filtered, concentrated in vacuo by rotary evaporation, and chromatographed (silica gel, 2.5% MeOH/CH2Cl2) to yield the title compound (0.12 g, 76%): Electrospray mass spec: M+H+=434.2.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide | 0.53 mmol, 0.10 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | furan-2-carboxylic acid | 0.53 mmol, 0.059 g | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | (S)-2-Amino-3-cyclohexyl-N-((3S,4S,7R)-3-hydroxy-7-methyl-1-propyl-azepan-4-yl)-propionamide | 0.36 mmol, 0.15 g | N[C@H](C(=O)N[C@@H]1[C@H](CN([C@@H](CC1)C)CCC)O)CC1CCCCC1 | C19H37N3O2
reactant | 4-methylmorpholine | 1.44 mmol, 0.16 ml, 0.14 g | CN1CCOCC1 | C5H11NO
reactant | hydroxybenztriazole | 0.53 mmol, 0.071 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | Furan-2-carboxylic acid [(S)-2-cyclohexyl-1-((3S,4S,7R)-3-hydroxy-7-methyl-1-propyl-azepan-4-ylcarbamoyl)-ethyl]-amide | 0.12 g, 76% | C1(CCCCC1)C[C@@H](C(N[C@@H]1[C@H](CN([C@@H](CC1)C)CCC)O)=O)NC(=O)C=1OC=CC1 | C24H39N3O4
